US05059345
10 ml of CCl4, 5 ml of thionyl chloride and one drop of dimethylformamide were added to 2.0 g of 4-(5-octyl-2-pyrimidinyl)benzoic acid. The mixture was refluxed for 3 hours under stirring. The solvent was distilled off initially under normal pressure and then under reduced pressure. As a result, 2.2 g of 4-(5-octyl-2-pyrimidinyl)benzoic acid chloride was obtained in the form of a colorless plate-form crystal. 1.2 g of the thus obtained 4-(5-octyl-2-pyrimidinyl)benzoic acid chloride was dissolved in a mixed solvent composed of 20 ml of CCl4 and 5 ml of anhydrous pyridine under stirring. The thus obtained solution was added with a solution prepared by dissolving 0.7 g of (S)-4-(1-oxo-2-methylbutyl)phenol in 10 ml of CCl4, and the admixture was stirred at the room temperature for one night. The admixture was heated to reflux for 3 hours. 200 ml of water and 100 ml of ethyl ether were added to the reaction admixture, followed by stirring. The organic phase was separated, and rinsed initially with a dilute hydrochloric acid solution, then with an aqueous solution of NaHCO3 and finally with a saturated aqueous solution of NaCl. The rinsed organic phase was added with anhydrous Na2SO4 and allowed to stand for one night to dry the same. After removing the drying agent by filtration, the solvent was distilled off to obtain 1.86 g of a crude product. The crude product was refined through silica gel column chromatography while using a mixed solvent of hexane/ethyl acetate (ratio by volume: 8/2). The refined product was recrystallized from ethanol to obtain 200 mg of (S)-4-(1-oxo-2-methylbutyl)phenyl 4-(5-octyl-2-pyrimidinyl)benzoate in the form of a colorless crystal.

reactant | 4-(5-octyl-2-pyrimidinyl)benzoic acid chloride | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C(=O)Cl)C=C1 | C19H23ClN2O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | (S)-4-(1-oxo-2-methylbutyl)phenol | 0.7 g | O=C([C@H](CC)C)C1=CC=C(C=C1)O | C11H14O2
reactant | water | 200 ml | O | H2O
solvent | CCl4 | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | (S)-4-(1-oxo-2-methylbutyl)phenyl 4-(5-octyl-2-pyrimidinyl)benzoate | 200 mg | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C(=O)OC2=CC=C(C=C2)C([C@H](CC)C)=O)C=C1 | C30H36N2O3
